### PR TITLE
Proof of Young's convolution inequality

### PR DESCRIPTION
**Pull request by js2357**
Proof of Young's convolution inequality.

- I proved `AEMeasurable.lintegral_prod_right'` by analogy to `MeasureTheory.AEStronglyMeasurable.integral_prod_right'`. I noticed that the latter theorem has no `left` version. Was that an intentional decision, or should we add some left theorems?
- I added some extra theorems at the end of the file that weren't needed for the proof, but might be worth adding to Mathlib anyway.

### CODE REVIEW

File: Carleson/ToMathlib/Convolution.lean [hunk 1]
```diff
@@ -0,0 +1,501 @@
...
+    ConvolutionExists f g L μ := by
+  refine fun x ↦ ⟨AEStronglyMeasurable.convolution_integrand_snd L hf hg x, ?_⟩
+  apply lt_of_le_of_lt (lintegral_enorm_convolution_integrand_le_eLpNorm_mul_eLpNorm hpq hL hf hg x)
+  exact ENNReal.mul_lt_top hfp.eLpNorm_lt_top hgq.eLpNorm_lt_top
+
+/-- If `p` and `q` are Hölder conjugates, then the convolution of `f` and `g` is bounded everywhere
+by `eLpNorm f p μ * eLpNorm g q μ`. -/
+theorem enorm_convolution_le_eLpNorm_mul_eLpNorm [NormedSpace ℝ F] [AddGroup G]
+    [MeasurableAdd₂ G] [MeasurableNeg G] (μ : Measure G) [SFinite μ] [μ.IsNegInvariant]
+    [μ.IsAddLeftInvariant] [μ.IsAddRightInvariant] {p q : ℝ≥0∞} (hpq : 1 = 1 / p + 1 / q)
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Convolution.lean:493]: Can you use [`ENNReal.IsConjExponent`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Real/ConjExponents.html#ENNReal.IsConjExponent)?

File: Carleson/ToMathlib/Convolution.lean [hunk 2]
```diff
@@ -0,0 +1,501 @@
...
+  simp_rw [div_eq_mul_inv, lintegral_inv_eq_self (f <| g * ·), lintegral_mul_left_eq_self]
+
+end MeasurableMul
+
+end MeasureTheory
+---------------------------------------------------------------------------------------------------
+
+
+---------------------------------------------------------------------------------------------------
+-- Add to `Mathlib.MeasureTheory.Integral.MeanInequalities`
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Convolution.lean:80]: Can you please move to `Carleson.toMathlib.MeasureTheory.Integral.MeanInequalities` instead?

File: Carleson/ToMathlib/Convolution.lean [hunk 3]
```diff
@@ -0,0 +1,501 @@
...
+  have p_ne_top : ∀ i ∈ s, p i ≠ ∞ := fun i hi h ↦ exists_top ⟨i, hi, h⟩
+  convert ENNReal.lintegral_prod_norm_pow_le s hf' hp₁ hp₂ with a i₀ hi₀ i hi
+  · rw [← ENNReal.rpow_mul, one_div, mul_inv_cancel₀, rpow_one]
+    exact ENNReal.toReal_ne_zero.mpr ⟨p_ne_0 i₀ hi₀, fun h ↦ exists_top ⟨i₀, hi₀, h⟩⟩
+  · simp [eLpNorm, eLpNorm', p_ne_0 i hi, p_ne_top i hi]
+---------------------------------------------------------------------------------------------------
+
+
+---------------------------------------------------------------------------------------------------
+-- Add to `Mathlib.MeasureTheory.Measure.Haar.Unique`
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Convolution.lean:126]: Can you please move to `Carleson.toMathlib.MeasureTheory.Measure.Haar.Unique` instead?

File: Carleson/ToMathlib/Convolution.lean [hunk 4]
```diff
@@ -0,0 +1,501 @@
...
+  IsHaarMeasure.isInvInvariant_of_isMulRightInvariant μ
+
+end CommGroup
+
+end MeasureTheory.Measure
+---------------------------------------------------------------------------------------------------
+
+
+---------------------------------------------------------------------------------------------------
+-- Add to `Mathlib.MeasureTheory.Integral.MeanInequalities`
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Convolution.lean:177]: Can you please move to `Carleson.toMathlib.MeasureTheory.Integral.MeanInequalities` instead?

**Review by YaelDillies — COMMENTED** [review]
... etc. Thanks!

File: Carleson/ToMathlib/Convolution.lean (hunk 1 above)
Comment (js2357) [reply Carleson/ToMathlib/Convolution.lean]: Done.

File: Carleson/ToMathlib/Convolution.lean [hunk 5]
```diff
@@ -0,0 +1,501 @@
...
+    (hL : ∀ (x y : G), ‖L (f x) (g y)‖ ≤ ‖f x‖ * ‖g y‖) (hf : AEStronglyMeasurable f μ)
+    (hg : AEStronglyMeasurable g μ) (hfp : Memℒp f p μ) (hgq : Memℒp g q μ) :
+    ConvolutionExists f g L μ := by
+  refine fun x ↦ ⟨AEStronglyMeasurable.convolution_integrand_snd L hf hg x, ?_⟩
+  apply lt_of_le_of_lt (lintegral_enorm_convolution_integrand_le_eLpNorm_mul_eLpNorm hpq hL hf hg x)
+  exact ENNReal.mul_lt_top hfp.eLpNorm_lt_top hgq.eLpNorm_lt_top
+
+/-- If `p` and `q` are Hölder conjugates, then the convolution of `f` and `g` is bounded everywhere
+by `eLpNorm f p μ * eLpNorm g q μ`. -/
+theorem enorm_convolution_le_eLpNorm_mul_eLpNorm [NormedSpace ℝ F] [AddGroup G]
```
[the remark this answers is not in the document]
Comment (js2357) [reply Carleson/ToMathlib/Convolution.lean:619]: Done.

**Comment by js2357** [comment]
When I tried to write the `‖L‖ₑ` version of the theorem, neither version conveniently implied the other, so I ended up proving a third version that implies both of the other two. This leaves two new questions:

1. For the theorems proven as intermediate steps (e.g., the case where all exponents are real), do we want to have all three versions of all of those, or just the most general version? I think it's fine to have only the general version; if someone ever wants to use one of the intermediate results instead of the final theorem, it's fairly easy to go from the general version to either of the other versions.
2. Are we happy with the naming convention for the three versions? I currently have them as `eLpNorm_convolution_le`, `eLpNorm_convolution_le'`, and `eLpNorm_convolution_le''`, with the unprimed version being the most general one, but I could also see an argument for letting the classical statement be the unprimed version, or for giving them all more descriptive names.

**Review by YaelDillies — COMMENTED** [review]
1. Yeah, no problem. Drop them.
2. See my suggestions below.

File: Carleson/ToMathlib/Data/Real/ConjExponents.lean [hunk 6]
```diff
@@ -0,0 +1,23 @@
...
+
+namespace ENNReal
+namespace IsConjExponent
+
+variable {p q : ℝ≥0∞} (h : p.IsConjExponent q)
+
+section
+include h
+
+lemma conjExponent_toReal (hp : p ≠ ∞) (hq : q ≠ ∞) : p.toReal.IsConjExponent q.toReal := by
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Data/Real/ConjExponents.lean:13]:
```suggestion
lemma IsConjExponent.toReal (hp : p ≠ ∞) (hq : q ≠ ∞) : p.toReal.IsConjExponent q.toReal := by
```

File: Carleson/ToMathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,41 @@
...
+  by_cases hp_zero : p = 0
+  · simp only [hp_zero, eLpNorm_exponent_zero]
+  by_cases hp_top : p = ∞
+  · simp_rw [hp_top, eLpNorm_exponent_top]
+    exact eLpNormEssSup_map_measure' hg hf
+  simp_rw [eLpNorm_eq_lintegral_rpow_enorm hp_zero hp_top]
+  rw [lintegral_map' (hg.enorm.pow_const p.toReal) hf]
+  rfl
+
+theorem eLpNorm_comp_measurePreserving' {ν : MeasureTheory.Measure β} [MeasurableSpace E]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:34]:
```suggestion
theorem eLpNorm_comp_of_measurePreserving' {ν : MeasureTheory.Measure β} [MeasurableSpace E]
```

File: Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean [hunk 8]
```diff
@@ -0,0 +1,34 @@
...
+variable {G : Type*} [MeasurableSpace G] {μ : Measure G}
+
+section MeasurableInv
+variable [Group G] [MeasurableInv G]
+
+/-- If `μ` is invariant under inversion, then `∫⁻ x, f x ∂μ` is unchanged by replacing
+`x` with `x⁻¹` -/
+@[to_additive
+  "If `μ` is invariant under negation, then `∫⁻ x, f x ∂μ` is unchanged by replacing `x` with `-x`"]
+theorem lintegral_inv_eq_self [μ.IsInvInvariant] (f : G → ℝ≥0∞) :
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:17]:
```suggestion
theorem lintegral_inv_eq_lintegral [μ.IsInvInvariant] (f : G → ℝ≥0∞) :
```

File: Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean [hunk 9]
```diff
@@ -0,0 +1,34 @@
...
+  simpa using (lintegral_map_equiv f (μ := μ) <| MeasurableEquiv.inv G).symm
+
+end MeasurableInv
+
+section MeasurableMul
+
+variable [Group G] [MeasurableMul G]
+
+@[to_additive]
+theorem lintegral_div_left_eq_self [IsMulLeftInvariant μ] [MeasurableInv G] [IsInvInvariant μ]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:28]: Similarly,
```suggestion
theorem lintegral_div_left_eq_lintegral [IsMulLeftInvariant μ] [MeasurableInv G] [IsInvInvariant μ]
```

File: Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean [hunk 10]
```diff
@@ -0,0 +1,27 @@
...
+open scoped ENNReal
+
+variable {α β : Type*}
+
+variable [MeasurableSpace α] [MeasurableSpace β]
+variable {μ : Measure α} {ν : Measure β}
+
+-- Proof copied from `MeasureTheory.AEStronglyMeasurable.integral_prod_right'`
+-- Was it intentional that there's no left version?
+theorem AEMeasurable.lintegral_prod_right' [SFinite ν] ⦃f : α × β → ℝ≥0∞⦄
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean:18]:
```suggestion
-- TODO: Replace `AEStronglyMeasurable.integral_prod_right'`
theorem AEMeasurable.lintegral_prod_right' [SFinite ν] ⦃f : α × β → ℝ≥0∞⦄
```
Right?

File: Carleson/ToMathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 7 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:34]: Mathlib already has several theorems of the form `comp_measurePreserving` and none of the form `comp_of_measurePreserving`. Unless you want to get all of them changed, I think consistency is worth more here.

File: Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean (hunk 9 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:28]: Mathlib already has `lintegral_mul_left_eq_self`, `lintegral_mul_right_eq_self`, and `lintegral_div_right_eq_self`.

I like `self` better anyway; I think `lintegral_mul_left_eq_lintegral` sounds like a name for a u-substitution theorem.

File: Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean (hunk 10 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean:18]: I'm not sure I follow what you're suggesting. One theorem is about `integral` and one is about `lintegral`; they don't replace each other.

File: Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean (hunk 8 above)
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:17]: Mathlib already has `integral_inv_eq_self`.

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 11]
```diff
@@ -0,0 +1,372 @@
...
+  have hp₂ : ∀ i ∈ s, 0 ≤ 1 / (p i).toReal := by intros; positivity
+  have p_ne_0 : ∀ i ∈ s, p i ≠ 0 :=
+    fun i hi eq0 ↦ one_ne_top <| hp.symm.trans <| ENNReal.sum_eq_top.mpr ⟨i, hi, by simp [eq0]⟩
+  have p_ne_top : ∀ i ∈ s, p i ≠ ∞ := fun i hi h ↦ exists_top ⟨i, hi, h⟩
+  convert ENNReal.lintegral_prod_norm_pow_le s hf' hp₁ hp₂ with a i₀ hi₀ i hi
+  · rw [← ENNReal.rpow_mul, one_div, mul_inv_cancel₀, rpow_one]
+    exact ENNReal.toReal_ne_zero.mpr ⟨p_ne_0 i₀ hi₀, (exists_top ⟨i₀, hi₀, ·⟩)⟩
+  · simp [eLpNorm, eLpNorm', p_ne_0 i hi, p_ne_top i hi]
+
+/-- Hölder's inequality for functions `α → ℝ≥0∞`, using exponents in `ℝ≥0∞`-/
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:71]:
```suggestion
/-- **Hölder's inequality** for functions `α → ℝ≥0∞`, using exponents in `ℝ≥0∞`-/
```

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 12]
```diff
@@ -0,0 +1,372 @@
...
+  unfold convolution
+  simp only [this, integral_zero]
+  rfl
+
+variable [AddCommGroup G] [TopologicalSpace G] [TopologicalAddGroup G] [BorelSpace G]
+  [μ.IsAddHaarMeasure] [LocallyCompactSpace G] [SecondCountableTopology G]
+  [MeasurableSpace E] [OpensMeasurableSpace E] [MeasurableSpace E'] [OpensMeasurableSpace E']
+
+
+/-- Special case of Young's convolution inequality when `r = ∞`. -/
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:147]:
```suggestion
/-- Special case of **Young's convolution inequality** when `r = ∞`. -/
```
no?

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 13]
```diff
@@ -0,0 +1,372 @@
...
+/-- This inequality is used in the proof of Young's convolution inequality
+`eLpNorm_convolution_le_ofReal`. -/
+theorem enorm_convolution_le_eLpNorm_mul_eLpNorm_mul_eLpNorm {p q r : ℝ}
+    (hp : 1 ≤ p) (hq : 1 ≤ q) (hr : 1 ≤ r) (hpqr : p⁻¹ + q⁻¹ = r⁻¹ + 1)
+    {f : G → E} {g : G → E'} (hf : AEMeasurable f μ) (hg : AEMeasurable g μ)
+    {c : ℝ} (hL : ∀ (x y : G), ‖L (f x) (g y)‖ ≤ c * ‖f x‖ * ‖g y‖) (x : G) :
+    ‖(f ⋆[L, μ] g) x‖ₑ ≤ ENNReal.ofReal c *
+    eLpNorm (fun y ↦ (‖f y‖ₑ ^ p * ‖g (x - y)‖ₑ ^ q) ^ (1 / r)) (ENNReal.ofReal r) μ *
+    ((eLpNorm f (ENNReal.ofReal p) μ) ^ ((r - p) / r) *
+    (eLpNorm g (ENNReal.ofReal q) μ) ^ ((r - q) / r)) := by
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:185]:
```suggestion
    ‖(f ⋆[L, μ] g) x‖ₑ ≤
      .ofReal c * eLpNorm (fun y ↦ (‖f y‖ₑ ^ p * ‖g (x - y)‖ₑ ^ q) ^ (1 / r)) (.ofReal r) μ *
      ((eLpNorm f (.ofReal p) μ) ^ ((r - p) / r) *
      (eLpNorm g (.ofReal q) μ) ^ ((r - q) / r)) := by
```
would be clearer IMO

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 14]
```diff
@@ -0,0 +1,372 @@
...
+  let F (i : Fin 3) : G → ℝ≥0∞ :=
+    match i with
+    | 0 => fun y ↦ (‖f y‖ₑ ^ p * ‖g (x - y)‖ₑ ^ q) ^ (1 / r)
+    | 1 => fun y ↦ ‖f y‖ₑ ^ ((r - p) / r)
+    | 2 => fun y ↦ ‖g (x - y)‖ₑ ^ ((r - q) / r)
+  let P (i : Fin 3) : ℝ≥0∞ :=
+    match i with
+    | 0 => ENNReal.ofReal r
+    | 1 => ENNReal.ofReal (p * r) / ENNReal.ofReal (r - p)
+    | 2 => ENNReal.ofReal (q * r) / ENNReal.ofReal (r - q)
```
Comment (YaelDillies) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:201]: You should use vector notation here
```suggestion
  let P : Fin 3 → ℝ≥0∞ :=
    ![.ofReal r, .ofReal (p * r) / .ofReal (r - p), .ofReal (q * r) / .ofReal (r - q)]
```

File: Carleson/ToMathlib/Analysis/Convolution.lean [hunk 15]
```diff
@@ -0,0 +1,80 @@
...
+theorem convolution_symm {f : G → E} {g : G → E} (L : E →L[𝕜] E →L[𝕜] F)
+    (hL : ∀ (x y : E), L x y = L y x) [NormedSpace ℝ F] [AddCommGroup G]
+    {μ : Measure G} [μ.IsAddLeftInvariant] [μ.IsNegInvariant] [MeasurableNeg G] [MeasurableAdd G] :
+    f ⋆[L, μ] g = g ⋆[L, μ] f := by
+  suffices L.flip = L by rw [← convolution_flip, this]
+  ext x y
+  exact hL y x
+
+/-- The convolution of two a.e. strongly measurable functions is a.e. strongly measurable. -/
+theorem aestronglyMeasurable_convolution [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Analysis/Convolution.lean:31]:
```suggestion
theorem AEStronglyMeasurable.convolution [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
Make sure you're in the right namespace for dot notation to work

File: Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean (hunk 10 above)
Comment (YaelDillies) [reply Carleson/ToMathlib/MeasureTheory/Measure/Prod.lean:18]: Sorry, yes, I misread

File: Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean (hunk 9 above)
Comment (YaelDillies) [reply Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:28]: > I think `lintegral_mul_left_eq_lintegral` sounds like a name for a u-substitution theorem.

That's a feature 😉 It's a u-sub theorem (+ the fact that the measure is invariant)

Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Group/LIntegral.lean:28]: Okay, it sounds like a more general u-substitution.

File: Carleson/ToMathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 16]
```diff
@@ -0,0 +1,33 @@
+import Mathlib.MeasureTheory.Integral.Lebesgue
+
+open ENNReal
+
+namespace MeasureTheory
+
+open SimpleFunc
+
+/-- Generalization of `MeasureTheory.lintegral_eq_iSup_eapprox_lintegral` assuming a.e.
+measurability of `f` -/
```
[the remark this answers is not in the document]
Comment (js2357) [reply Carleson/ToMathlib/MeasureTheory/Integral/Lebesgue.lean:10]: I wasn't even sure whether we were going to decide it was worth adding to Mathlib at all. I originally proved it when I was generalizing `lintegral_comp` to a.e. measurable functions, because I was thinking about generalizing all the lemmas on the way. But then I ended up proving it by applying `lintegral_comp` to `hf.mk f` and `hg.mk g`. Do you think anyone will want the intermediate lemmas generalized at some point, or will it always be easier to use the `hf.mk f` technique?

If we decide to add it, I don't have any particular opinion about whether to add it on top of `lintegral_eq_iSup_eapprox_lintegral` or replace it.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Carleson/ToMathlib/MeasureTheory/Integral/Lebesgue.lean:10]: > Do you think anyone will want the intermediate lemmas generalized at some point, or will it always be easier to use the hf.mk f technique?

I personally think it's always better to have more general lemmas than expect people to know techniques

> If we decide to add it, I don't have any particular opinion about whether to add it on top of `lintegral_eq_iSup_eapprox_lintegral` or replace it.

Fine, then forget me 😄

File: Carleson/ToMathlib/Analysis/Convolution.lean [hunk 17]
```diff
@@ -0,0 +1,80 @@
...
+  replace hpq : 1 / 1 = 1 / p + 1 /q := by simpa using hpq.inv_add_inv_conj.symm
+  have hg' : AEStronglyMeasurable (g <| x₀ - ·) μ :=
+    hg.comp_quasiMeasurePreserving <| quasiMeasurePreserving_sub_left μ x₀
+  have hL' : ∀ᵐ (x : G) ∂μ, ‖L (f x) (g (x₀ - x))‖ ≤ ‖f x‖ * ‖g (x₀ - x)‖ :=
+    Filter.Eventually.of_forall (fun x ↦ hL x (x₀ - x))
+  simpa [eLpNorm, eLpNorm'] using eLpNorm_le_eLpNorm_mul_eLpNorm'_of_norm hf hg' (L ·) hL' hpq
+
+/-- If `Memℒp f p μ` and `Memℒp g q μ`, where `p` and `q` are Hölder conjugates, then the
+convolution of `f` and `g` exists everywhere. -/
+theorem convolutionExists_of_memℒp_memℒp [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Analysis/Convolution.lean:59]:
```suggestion
theorem ConvolutionExists.of_memℒp_memℒp [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
for anonymous dot notation

File: Carleson/ToMathlib/Analysis/Convolution.lean [hunk 18]
```diff
@@ -0,0 +1,80 @@
...
+theorem convolution_symm {f : G → E} {g : G → E} (L : E →L[𝕜] E →L[𝕜] F)
+    (hL : ∀ (x y : E), L x y = L y x) [NormedSpace ℝ F] [AddCommGroup G]
+    {μ : Measure G} [μ.IsAddLeftInvariant] [μ.IsNegInvariant] [MeasurableNeg G] [MeasurableAdd G] :
+    f ⋆[L, μ] g = g ⋆[L, μ] f := by
+  suffices L.flip = L by rw [← convolution_flip, this]
+  ext x y
+  exact hL y x
+
+/-- The convolution of two a.e. strongly measurable functions is a.e. strongly measurable. -/
+theorem AEStronglyMeasurable.convolution [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Analysis/Convolution.lean:31]:
```suggestion
protected theorem AEStronglyMeasurable.convolution [NormedSpace ℝ F] [AddGroup G] [MeasurableAdd₂ G]
```
sorry, you'll have to rewrap

File: Carleson/ToMathlib/Analysis/Convolution.lean [hunk 19]
```diff
@@ -0,0 +1,80 @@
...
+  {f : G → E} {g : G → E'}
+
+variable [NontriviallyNormedField 𝕜]
+
+variable [NormedSpace 𝕜 E] [NormedSpace 𝕜 E'] [NormedSpace 𝕜 F]
+variable {L : E →L[𝕜] E' →L[𝕜] F}
+
+variable [MeasurableSpace G]
+
+/-- Special case of ``convolution_flip` when `L` is symmetric. -/
```
Comment (YaelDillies) [inline Carleson/ToMathlib/Analysis/Convolution.lean:21]:
```suggestion
/-- Special case of `convolution_flip` when `L` is symmetric. -/
```

**Review by YaelDillies — APPROVED** [review]
Great! I've run out of comments 😀

**Comment by fpvandoorn** [comment]
Thank you @js2357, and thanks for the extensive review @YaelDillies! This looks really clean!
